US08614214B2
To a solution of 2-(2-chloroacetamido)-N-methylbenzamide 22.65 g (0.1 mol) and p-hydroxyacetophenone 16.32 g (0.12 mol) in 200 mL of butanone was added 27.60 g (0.2 mol) potassium carbonate. The mixture was stirred and heated to reflux for 4-5 hours, and monitored by TLC until the reaction was over, the reaction mixture was concentrated under reduced pressure and extracted with 300 mL of ethyl acetate to separate the organic phase, the organic phase was washed with 50 ml of 5% sodium hydroxide aqueous solution and 50 ml of brine successively, dried via anhydrous magnesium sulfate and evaporated, and the residual was purified via silica gel column chromatography to obtain 27.50 g 2-(2-(4-acetylphenoxy)acetamido)-N-methylbenzamide as white solid with yield of 84.4%, m.p. 252-253° C.

reactant | 2-(2-chloroacetamido)-N-methylbenzamide | 0.1 mol, 22.65 g | ClCC(=O)NC1=C(C(=O)NC)C=CC=C1 | C10H11ClN2O2
reactant | p-hydroxyacetophenone | 0.12 mol, 16.32 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | potassium carbonate | 0.2 mol, 27.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 200 mL | CC(CC)=O | C4H8O
product | 2-(2-(4-acetylphenoxy)acetamido)-N-methylbenzamide | 27.50 g, yield of 84.4% | C(C)(=O)C1=CC=C(OCC(=O)NC2=C(C(=O)NC)C=CC=C2)C=C1 | C18H18N2O4
